US04326071
A solution of 15.2 g of 1-trifluoromethylpent-4-ene-1-one in 150 ml of methanol is heated at 0° C. with 1.7 g of sodium borohydride. The reaction mixture is stirred for 2 hours at 25° C. then neutralized with HCl. The residue obtained after evaporation of the solvent is extracted several times with chloroform, washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give 1-trifluoromethylbut-4-ene-1-ol. A solution of 10 mmole of 1-trifluoromethylbut-4-ene-1-ol, 10 ml of triphenylphosphine and 10 ml of diethyl azodicarboxylate in 25 ml of tetrahydrofuran is stirred under nitrogen at 25° C. for 16 hours after which the solvent is evaporated under reduced pressure. The resulting residue is treated with benzene. The insoluble material is discarded and the semi-solid obtained after concentration of the filtrate under reduced pressure is recrystallized from methylene chloride-pentane to afford N-(1-trifluoromethyl-3-butenyl)phthalimide. To a solution of 25 mmole of the phthalimide in 25 ml of dioxane is added a solution of 12 mmole of potassium permanganate and 50 mmole of sodium metaperiodate in water. Potassium carbonate is added to adjust the pH of the solution to 8 and the reaction mixture is stirred for 24 hours at 25° C. then acidified with sulfuric acid to a pH of 1 and extracted with ethyl acetate. The organic phase is washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The resulting residue is recrystallized from methylene chloride-pentane to give 4-trifluoromethyl-4-phthalimidopentanoic acid. A solution of 20 ml of 4-trifluoromethyl-4-phthalimidopentanoic acid and 20 mmole of hydrazine hydrate in 20 ml of ethanol is heated at reflux temperature for 12 hours. The solid which separates on cooling is filtered and washed with water. The filtrate is concentrated under reduced pressure to give a solid which is recrystallized from water/acetone to give 4-amino-4-trifluoromethylpentanoic acid.

reactant | 4-trifluoromethyl-4-phthalimidopentanoic acid | 20 ml | FC(C(CCC(=O)O)(C)N1C(C=2C(C1=O)=CC=CC2)=O)(F)F | C14H12F3NO4
reactant | hydrazine hydrate | 20 mmole | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-amino-4-trifluoromethylpentanoic acid | NC(CCC(=O)O)(C)C(F)(F)F | C6H10F3NO2
